US06232313B1
7-Chloro-3-(4-fluorophenyl)-1-hydroxy-3,4,5,10-tetrahydropyridazino[4,5-b]quin-oline-4,10-dione.
To a stirred suspension of dimethyl7-chloro-4-hydroxyquinoline -2,3-dicarboxylate (2.59 g, 8.79 mM) and 4-fluorophenyl hydrazine hydrochloride (10.0 g, 61.5 mM) in ethanol (48 mL) was added triethylamine (9.8 mL, 70.3 mM). The resulting brown solution was refluxed for 48 hours, cooled to room temperature and diluted with ethyl acetate (150 mL) to give a white crystalline precipitate which was removed by filtration and discarded. The filtrate was washed with hydrochloric acid (3×500 mL, 1N) which caused precipitation in the ethyl acetate layer. The precipitate was collected and washed successively with eth yl acetate/ether and ether to give the 4-fluorophenyl hydrazine salt of the title compound (2.14 g). This material was refluxed in glacial acetic acid (20 mL) for 2 hours. After cooling the acetic acid solution to room temperature, a precipitate formed and the solids were collected to give the title compound (1.48 g, 47%) as a yellow powder, mp 390-392° C.; MS(CI): 358 (M+H).

reactant | dimethyl7-chloro-4-hydroxyquinoline -2,3-dicarboxylate | 8.79 mM, 2.59 g | COC(=O)C1=NC2=CC(=CC=C2C(=C1C(=O)OC)O)Cl | C13H10ClNO5
reactant | 4-fluorophenyl hydrazine hydrochloride | 61.5 mM, 10.0 g | Cl.FC1=CC=C(C=C1)NN
reactant | triethylamine | 70.3 mM, 9.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 48 mL | C(C)O | C2H6O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-3-(4-fluorophenyl)-1-hydroxy-3,4,5,10-tetrahydropyridazino[4,5-b]quin-oline-4,10-dione | 2.14 g | ClC=1C=CC=2C(C3=C(NC2C1)C(N(N=C3O)C3=CC=C(C=C3)F)=O)=O | C17H9ClFN3O3
